US05023258
3-(4-[4-(4-[2-(2,4-Dichlorophenyl)-2-hydroxy-3-(1H-1,2,4-triazol-1-yl)prop-1-oxy]phenyl)piperazin-1-yl]phenyl)-1-methylimidazolidin-2,4-dione
A mixture of 2-(2,4-dichlorophenyl)-3-(4-[4-(4-phenoxycarbonylaminophenyl)piperazin-1-yl]phenoxy)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol (see Preparation 2) (0.3 g, 0.45 mmole), sarcosine ethyl ester hydrochloride (0.09 g, 0.58 mmole), 4-(N,N-dimethylamino)pyridine (0.03 g, 0.24 mmole) and sodium bicarbonate (0.09 g, 1 mmole) in 1,4-dioxane (30 ml) was heated under reflux for 18 hours. After cooling, the mixture was diluted with water, extracted with ethyl acetate and the organic phase washed with brine. After drying over magnesium sulphate, the organic phase was concentrated under reduced pressure to yield a gum, which on trituration with ether gave a pale yellow solid (0.260 g). Purification of this solid material by flash chromatography on silica gel eluting with methylene chloride (90):isopropanol (10):acetic acid (0.2) yielded, after collection and evaporation of appropriate fractions, the desired product as a colourless solid, m.p. 213°-215° (0.13 g, 45%).

reactant | 2-(2,4-dichlorophenyl)-3-(4-[4-(4-phenoxycarbonylaminophenyl)piperazin-1-yl]phenoxy)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | 0.45 mmole, 0.3 g | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)OC1=CC=CC=C1)O | C34H32Cl2N6O4
reactant | sarcosine ethyl ester hydrochloride | 0.58 mmole, 0.09 g | Cl.C(C)OC(CNC)=O
reactant | sodium bicarbonate | 1 mmole, 0.09 g | C([O-])(O)=O.[Na+]
catalyst | 4-(N,N-dimethylamino)pyridine | 0.24 mmole, 0.03 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 3-(4-[4-(4-[2-(2,4-Dichlorophenyl)-2-hydroxy-3-(1H-1,2,4-triazol-1-yl)prop-1-oxy]phenyl)piperazin-1-yl]phenyl)-1-methylimidazolidin-2,4-dione | 0.260 g | ClC1=C(C=CC(=C1)Cl)C(COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(CC1=O)C)=O)(CN1N=CN=C1)O | C31H31Cl2N7O4
